US06846819B1
Preparation of 5-bromo-2-acetylaminopyrimidine
To a solution of 5-bromo2-aminopyrimidine (2.0 g, 11.5 mmole) in CH2Cl2 (75 mL) at RT was added 2,6-lutidine (2.7 mL, 23.0 mmole) followed by acetyl chloride (0.99 g, 12.6 mmole). After stirring for 8 hours, the reaction solution was concentrated under vacuum. The remaining residue was dissolved EtOAc (200 mL), washed with H2O (100 mL) and brine, and dried over Na2SO4. Flash chromatography on silica gel (95:5 CHCl3/MeOH) and drying under high vacuum gave the title compound (1.74 g, 70%) as a yellow solid: MS (ES) m/e 217 (M+H)+.

reactant | 5-bromo2-aminopyrimidine | 11.5 mmole, 2.0 g | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | 2,6-lutidine | 23.0 mmole, 2.7 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | acetyl chloride | 12.6 mmole, 0.99 g | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-acetylaminopyrimidine | 1.74 g, 70% | BrC=1C=NC(=NC1)NC(C)=O | C6H6BrN3O
